US04611023
1,1-Bis(3,5-di-tert-butyl-4-hydroxyphenylthio)-1-(3,5-di-tert-butyl-4-hydroxyphenyl)methane
The procedure of Example 1 is repeated using 23.84 grams of 2,6-di-tert-butyl-4-mercaptophenol, 11.72 grams of 3,5-di-tert-butyl-4-hydroxybenzaldehyde and 150 ml of methyl alcohol. Trituration with methyl alcohol gives 30 grams (87% yield) of white crystals, mp 175°-177° C.

reactant | 2,6-di-tert-butyl-4-mercaptophenol | 23.84 grams | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 11.72 grams | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
solvent | methyl alcohol | CO | CH4O
solvent | methyl alcohol | 150 ml | CO | CH4O
product | 1,1-Bis(3,5-di-tert-butyl-4-hydroxyphenylthio)-1-(3,5-di-tert-butyl-4-hydroxyphenyl)methane | 30 grams, 87% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C43H64O3S2
